US05292747
A mixture of 1.08 g of 1,1,1,3,3,3-hexamethyldisilazane and 0.11 g of methanol was added to a solution of 380 mg of 3-[1-(tert.butoxycarbonyl)-7',9'-dihydrospiro[piperidine-3,8'(6'H)-pyrido[1,2-a]indol]-10'-yl]-4-(1-methyl-3-indolyl)furan-2,5-dione in 10 ml of DMF and the mixtue was stirred for 16 hours and subsequently poured into 50 ml of water. The resulting mixture was extracted with dichloromethane and the extracts were washed with sodium chloride solution, dried and concentrated. Chromatography of the residue on silica gel using dichloromethane/methanol (9:1) for the elution gave 220 mg of 3-[1-(tert.butoxycarbonyl)-7',9'-dihydrospiro[piperidine-3,8'(6'H)-pyrido[1,2-a]indol]-10'-yl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione.

reactant | 1,1,1,3,3,3-hexamethyldisilazane | 1.08 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | methanol | 0.11 g | CO | CH4O
reactant | 3-[1-(tert.butoxycarbonyl)-7',9'-dihydrospiro[piperidine-3,8'(6'H)-pyrido[1,2-a]indol]-10'-yl]-4-(1-methyl-3-indolyl)furan-2,5-dione | 380 mg | C(C)(C)(C)OC(=O)N1CC2(CC=3N(C4=CC=CC=C4C3C=3C(OC(C3C3=CN(C4=CC=CC=C34)C)=O)=O)CC2)CCC1 | C34H35N3O5
reactant | water | 50 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-[1-(tert.butoxycarbonyl)-7',9'-dihydrospiro[piperidine-3,8'(6'H)-pyrido[1,2-a]indol]-10'-yl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione | 220 mg | C(C)(C)(C)OC(=O)N1CC2(CC=3N(C4=CC=CC=C4C3C=3C(NC(C3C3=CN(C4=CC=CC=C34)C)=O)=O)CC2)CCC1 | C34H36N4O4
